US07163937B2
(1R,3R,4S)-(4-benzyloxycarbonylamino-3-hydroxymethyl-cyclohexyl)carbamic acid tert-butyl ester (1.8 g) was dissolved in N,N-dimethylformamide (15 mL). Iodomethane (50 mL) was added, followed by silver oxide (5.52 g), and the mixture was stirred at room temperature overnight. The mixture was filtered through Celite and the solids were washed with ethyl acetate. The filtrate was washed sequentially with water and brine, dried over sodium sulfate and concentrated. The residue was purified by flash chromatography to provide (1R,3R,4S)-(4-benzyloxycarbonylamino-3-methoxymethylcyclohexyl)carbamic acid tert-butyl ester as a colorless gum (1.78 g). MS found: (M+H)+=393.

reactant | (1R,3R,4S)-(4-benzyloxycarbonylamino-3-hydroxymethyl-cyclohexyl)carbamic acid tert-butyl ester | 1.8 g | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)CO)=O | C20H30N2O5
reactant | Iodomethane | 50 mL | IC | CH3I
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | silver oxide | 5.52 g | [Ag]=O
product | (1R,3R,4S)-(4-benzyloxycarbonylamino-3-methoxymethylcyclohexyl)carbamic acid tert-butyl ester | 1.78 g | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)COC)=O | C21H32N2O5
